US04929620
4-(4-Fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxaldehyde (31 g, 0.134 mol) and methyl(triphenylphosphoranylidene) acetate (46.6 g, 0.139 mol) in 500 mL of dichlormethane were stirred at room temperature for twenty-four hours. The solution was then concentrated and flash chromatographed on silica gel, eluting with 20% ethyl acetate/hexane, to give 36.3 g of methyl 3-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-2-propenoate.

reactant | 4-(4-Fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxaldehyde | 0.134 mol, 31 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C=O)C)C | C13H11FN2O
reactant | methyl(triphenylphosphoranylidene) acetate | 0.139 mol, 46.6 g | CC1=CC=CC=C1[P+](C2=CC=CC=C2)(C3=CC=CC=C3)OC(=O)C
reactant | dichlormethane | 500 mL | ClCCl | CH2Cl2
product | methyl 3-[4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinyl]-2-propenoate | 36.3 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C=CC(=O)OC)C)C | C16H15FN2O2
